US05238837
In a mixture of 100 ml of ethanol and 50 ml of 1N aqueous sodium hydroxide solution, 22-aminodocosanoic acid (400 mg, 1.12 mmoles) was dissolved at 40° C. To the obtained solution, the temperature being maintained at 40° C., maleic anhydride (4.39 g, 44.8 mmoles) was gradually added over a period of 5 hours. The reaction mixture was kept at a pH of 8-10 during the addition, and the mixture was stirred for additional 30 minutes and then treated in the same manner as in Reference Example 4, to give N-(21-caboxyheneicosyl)maleamic acid (538 mg, 83%) having the following properties.

reactant | 22-aminodocosanoic acid | 1.12 mmoles, 400 mg | NCCCCCCCCCCCCCCCCCCCCCC(=O)O | C22H45NO2
reactant | maleic anhydride | 44.8 mmoles, 4.39 g | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
product | N-(21-caboxyheneicosyl)maleamic acid | 538 mg, 83% | C(=O)(O)CCCCCCCCCCCCCCCCCCCCCNC(\C=C/C(=O)O)=O | C26H47NO5
